US05693651
(4) 2-imino-5-[[7-(2-trifluoromethylbenzyloxy)-3-quinolyl]methyl]thiazolidin-4-one
In ethanol (10 mL) was dissolved the crude residue (720 mg) of methyl 2-bromo-3-[7-(2-trifluoromethylbenzyloxy)-3-quinolyl]propionate. The solution was heated under reflux for 5 hours after addition of thiourea (117 mg, 1.53 mmol.) and sodium acetate (126 mg, 1.53 mmol.).

reactant | methyl 2-bromo-3-[7-(2-trifluoromethylbenzyloxy)-3-quinolyl]propionate | BrC(C(=O)OC)CC=1C=NC2=CC(=CC=C2C1)OCC1=C(C=CC=C1)C(F)(F)F | C21H17BrF3NO3
reactant | thiourea | 1.53 mmol, 117 mg | NC(=S)N | CH4N2S
reactant | sodium acetate | 1.53 mmol, 126 mg | C(C)(=O)[O-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-imino-5-[[7-(2-trifluoromethylbenzyloxy)-3-quinolyl]methyl]thiazolidin-4-one | N=C1SC(C(N1)=O)CC=1C=NC2=CC(=CC=C2C1)OCC1=C(C=CC=C1)C(F)(F)F | C21H16F3N3O2S
